US03959322
13β-Isopropyl-3-methoxygona-1,3,5(10),8-tetraen-17-one
Shake 13β-isopropyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one (2 g) in dioxan (50 cc) with a freshly prepared but moderately active Raney nickel catalyst (ca. 0.5 g) in hydrogen at atmospheric pressure. When, after several hours the theoretical amount of hydrogen for half-hydrogenation (160 cc) has been absorbed, filter off the nickel catalyst and remove the solvent by evaporation. Crystallize the residual gum from methanol to obtain the title product (1.2 g), m.p. 85°-100°C; ultraviolet absorption peak at 280 mμ (ε11,800).

reactant | 13β-isopropyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one | 2 g | C(C)(C)[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC)=O | C21H24O2
solvent | dioxan | 50 cc | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | ca. 0.5 g | [Ni] | Ni
solvent | hydrogen | [H][H] | H2
product | 13β-Isopropyl-3-methoxygona-1,3,5(10),8-tetraen-17-one | 1.2 g | C(C)(C)[C@]12C(CC[C@H]2C2=C(CC1)C=1C=CC(=CC1CC2)OC)=O | C21H26O2
